US08461158B2
Reaction of tert-butyl 4-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1-piperazinecarboxylate from the previous step with an excess of TFA (10 mL) in CH2Cl2 (50 mL) at room temperature for 2 hrs, followed by treatment with aq. NH3 gave 2-(difluoromethyl)-4-methoxy-1-[4-(4-morpholinyl)-6-(1-piperazinyl)-1,3,5-triazin-2-yl]-1H-benzimidazole in 100% yield: mp (EtOH) 228-231° C.: 1H NMR (CDCl3) δ 7.90 (d, J=7.9 Hz, 1H), 7.50 (t, JHF=53.5 Hz, 1H), 7.34 (t, J=8.3 Hz, 1H), 6.81 (d, J=7.8 Hz, 1H), 4.05 (s, 3H), 3.87 (m, 8H), 3.78 (m, 4H), 2.95 (m, 4H); Anal. Calcd. for C20H24F2N8O2: C, 53.8; H, 5.4; N, 25.1. Found: C, 53.8; H, 5.6; N, 25.3%.

reactant | tert-butyl 4-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1-piperazinecarboxylate | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N1CCN(CC1)C(=O)OC(C)(C)C)C=CC=C2OC)F | C25H32F2N8O4
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NH3 | N | H3N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-(difluoromethyl)-4-methoxy-1-[4-(4-morpholinyl)-6-(1-piperazinyl)-1,3,5-triazin-2-yl]-1H-benzimidazole | 100% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N1CCNCC1)C=CC=C2OC)F | C20H24F2N8O2
